US06030967
Methyl 8-(3-Aminopropyl)-9-(1,3-benzodioxol-5-yl)-naphtho[1,2-d]-1,3-dioxole-7-carboxylate
To a DMF (1 ml) solution of methyl 9-(1,3-benzodioxol-5-yl)-8-(2-cyanoethyl)-naphtho[1,2-d]-1,3-benzodioxole-7-carboxylate (21 mg) was added Raney nickel (about 200 mg) and stirred for 6 hours under hydrogen atmosphere. The catalist was filtered off and the reaction mixture was concentrated under reduced pressure, and the obtained residue was purified with column chromatography (silica gel 1 g, eluent:dichloromethane-methanol concentrated NH4OH=15:1:0.1) to give the entitled compound (11 mg).

reactant | methyl 9-(1,3-benzodioxol-5-yl)-8-(2-cyanoethyl)-naphtho[1,2-d]-1,3-benzodioxole-7-carboxylate | 21 mg | O1COC2=C1C=CC(=C2)C=2C=C1C=CC3=CC=CC4C3(OCO4)C1=C(C2CCC#N)C(=O)OC | C27H21NO6
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | Raney nickel | about 200 mg | [Ni] | Ni
product | Methyl 8-(3-Aminopropyl)-9-(1,3-benzodioxol-5-yl)-naphtho[1,2-d]-1,3-dioxole-7-carboxylate | 11 mg | NCCCC1=C(C=C2C=CC3=C(OCO3)C2=C1C1=CC2=C(OCO2)C=C1)C(=O)OC | C23H21NO6
